US04447361
N,N-Dimethyl-6-(3-thienyl)-11H-pyrido[2,3-b][1,4]benzodiazepine-11-propanamine
Following the procedure of Example 23, 6-(3-thienyl)11H-pyrido[2,3-b][1,4]benzodiazepine is reacted with sodium hydride followed by reaction with 3-dimethylaminopropyl chloride to give the title compound.

reactant | 6-(3-thienyl)11H-pyrido[2,3-b][1,4]benzodiazepine | S1C=C(C=C1)C1=NC2=C(NC3=C1C=CC=C3)N=CC=C2 | C16H11N3S
reactant | sodium hydride | [H-].[Na+]
reactant | 3-dimethylaminopropyl chloride | CN(CCCCl)C | C5H12ClN
product | N,N-Dimethyl-6-(3-thienyl)-11H-pyrido[2,3-b][1,4]benzodiazepine-11-propanamine | CN(CCCN1C2=C(N=C(C3=C1C=CC=C3)C3=CSC=C3)C=CC=N2)C | C21H22N4S
